US06271248B1
A. 4-Bromo-α-methylbenzenpropanoic acid, ethyl ester
To the LDA solution at -78° C., was added dropwise a solution of 5 mL (44 mmoles) of ethyl propionate in 20 mL of THF. Stirring was continued at —78° C. for 1 hour, after which a solution of 10 g (40 mmoles) of p-bromo benzylbromide in 25 mL of THF was added dropwise. Stirring was continued at −78° C. for 2 hours. Water was then added dropwise and the reaction was allowed to warm to room temperature.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | ethyl propionate | 44 mmoles, 5 mL | C(CC)(=O)OCC | C5H10O2
reactant | p-bromo benzylbromide | 40 mmoles, 10 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-Bromo-α-methylbenzenpropanoic acid, ethyl ester | BrC1=CC=C(C=C1)CC(C(=O)OCC)C | C12H15BrO2
